Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___, Hx lap band in ___, thalassemia, and GERD, who presents to 
the ED from ___ with hemaglobin ___ s/p syncopal 
episode. The patient began having nausea and coffe-ground emesis 
aproximately 8 months ago, increasing in frequency from about 
once per day to four times per day currently.  She had a 
syncopal episode about a week ago, but did not seek attention 
until today's, which she states was worse and prompted her to 
come in. Patient had an episode of emesis in he ED which was 
heme positive.  She denies abdominal pain or changes in bowel 
habits. She currently feels bloated and fatigued, and has a 
headache. The pateint had an EGD ___ year ago for GERD which she 
states demonstrated only evidence of reflux.  She also was 
diagnosed with thallasemia during her last pregnancy.  
Hemoglobin in ED 5.8. States febrile today to 102, currently 
afebrile.
 
Past Medical History:
Past Medical History: Thalassemia                                
 

Past Surgical History:
Lap band, ___
C-section

Medications: none

Allergies: NKDA
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Vitals: 97.4F | 62 | 101/64 | 18 | 100% RA
General: NAD, A&O x3
HEENT: No scleral icterus, MMM, EOMI, PERRLA
CV: Normal rate, regular rhythm, no m/r/g
Pulm: No respiratory distress, CTAB, no adventitious sounds
Abdomen: Soft, normal bowel sounds, non-tender, non-distended, 
no rebound or guarding, no palpable masses
Extremities: WWP, no pedal edema, palpable pedal pulses b/l
 
Pertinent Results:
___ 05:58AM BLOOD WBC-7.2 RBC-4.45 Hgb-7.7*# Hct-27.8* 
MCV-63*# MCH-17.3*# MCHC-27.7*# RDW-29.1* RDWSD-61.0* Plt ___
___ 08:10PM BLOOD WBC-11.8* RBC-4.16 Hgb-5.8*# Hct-23.4* 
MCV-56* MCH-13.9*# MCHC-24.8*# RDW-21.3* RDWSD-40.5 Plt ___ 
Neuts-69.2 ___ Monos-3.8* Eos-0.8* Baso-0.2 NRBC-0.2* Im 
___ AbsNeut-8.14* AbsLymp-3.03 AbsMono-0.45 AbsEos-0.10 
AbsBaso-0.02
___ 08:10PM BLOOD ___ PTT-30.2 ___
___ 08:10PM BLOOD Ret Aut-1.3 Abs Ret-0.06
___ 05:58AM BLOOD Glucose-100 UreaN-5* Creat-0.6 Na-138 
K-3.1* Cl-103 HCO3-26 AnGap-12
___ 08:10PM BLOOD Glucose-89 UreaN-5* Creat-0.6 Na-139 
K-3.3 Cl-103 HCO3-24 AnGap-15
___ 08:10PM BLOOD Lactate-1.0
___ 08:10PM BLOOD calTIBC-369 ___ Ferritn-3.1* 
TRF-284

___ ECG: Non-specific findings

___ CHEST X-Ray: No acute cardiopulmonary process

___ Abd X-Ray: No acute intra-abdominal process on this 
single view of the abdomen.  

___ CTA Abdomen and Pelvis: Ground-glass changes in the 
bases of the lungs, may be secondary to inflammatory/infectious 
process. No evidence of active extravasation.  Lap band appears 
to be in appropriate position.  There is proximal dilatation of 
the stomach, and esophagus with air-fluid levels. 

___ Endoscopy: 
- Dilation at the distal esophagus
- Mild nodularity of distal esophagus suggestive of stasis
- Otherwise normal appearing lap band site
- Otherwise normal EGD to third part of the duodenum 
 
Brief Hospital Course:
Patient was seen in the ED on ___ and admitted to ___ 
for management of severe anemia, nausea/vomiting, and address 
concerns related to her upper GI bleed and possible lap band 
intolerance. She received 2 units of pRBCs. Her lap band was 
adjusted with removal of 8.5 cc of fluid with 0 residual. 
Patient had heme positive emesis in the ED and later underwent 
endoscopy which showed no evidence of active bleeding. The 
distal esophagus was dilated with mild nodularity suggestive of 
stasis. However, there was no band erosion identified.

At the time of discharge on ___, patient was doing well, 
afebrile and hemodynamically stable. The patient was tolerating 
a regular diet without nausea/vomiting, ambulating and voiding 
without assistance. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Discharge Medications:
1. Ondansetron ___ mg PO Q8H:PRN nausea/vomiting 
RX *ondansetron HCl 4 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*18 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Upper GI Bleed/Lap Band Intolerance

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for management of severe anemia, 
nausea/vomiting, which was concerning for bleeding in your 
stomach and lap band intolerance. You had a low hemoglobin and 
so you received 2 units of blood. We removed 8.5 cc of fluid 
from your lap band with a zero residual content. You then 
underwent endoscopy which showed no evidence of bleeding. You 
are now being discharged with the following instructions.
- You may resume your regular diet
- Continue to take your medications that you were taking before 
you came to the hospital
- Please do not take any NSAIDs such as ibuprofen, motrin, 
aleve, etc. You may take tylenol if needed.
- Return to the Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness, shortness of breath.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
 
Followup Instructions:
___